US08106215B2
(1S,2S,5R)-3-Methoxy-N-[7-methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-benzamide
prepared by reaction of [(1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]oct-3-yl]-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone with 3-methoxy-benzoic acid.

reactant | [(1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]oct-3-yl]-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone | NC[C@@H]1[C@H]2CC(C[C@H]2CN1C(=O)C=1N=C(SC1C=1C=C(C=CC1)C)C)C | C21H27N3OS
reactant | 3-methoxy-benzoic acid | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
product | (1S,2S,5R)-3-Methoxy-N-[7-methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-benzamide | COC=1C=C(C(=O)NC[C@@H]2[C@H]3CC(C[C@H]3CN2C(=O)C=2N=C(SC2C=2C=C(C=CC2)C)C)C)C=CC1 | C29H33N3O3S
